US07981903B2
To a suspension of 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-4,6-difluoro-N-methylbenzamide (0.950 g, 1.07 mmol) in 1,4 dioxane (10 mL) in a microwave vessel was added 6 N NaOH (10 ml) and water (3 mL). The resulting mixture was stirred in the microwave at 120° C. for 9 min. The reaction mixture was diluted with EtOAc and THF and the organic layer was washed with water and a saturated brine solution. Combined organic layers were dried over sodium sulfate and all solvents were removed under reduced pressure and purified via chromatography on SiO2 to afford 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-4,6-difluoro-N-methylbenzamide (0.532 g, 0.966 mmol) as a beige solid. (ESIMS (M+H)+=551). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.23 (s, 6 H) 2.83 (d, J=4.40 Hz, 3 H) 3.06-3.12 (m, 2 H) 3.33 (s, 2 H) 3.76 (s, 2 H) 4.05-4.23 (m, 2 H) 6.25 (dd, J=3.39, 1.74 Hz, 1 H) 6.80-6.94 (m, 1 H) 6.93-7.04 (m, 2 H) 7.80 (s, 1 H) 8.41-8.54 (m, 2 H) 8.54-8.64 (m, 1 H) 10.79 (s, 1 H) 11.33 (br. s., 1 H)

reactant | 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-4,6-difluoro-N-methylbenzamide | 1.07 mmol, 0.950 g | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NC)C(=CC(=C2)F)F)OC)C | C34H34F2N8O5S
reactant | NaOH | 6 N, 10 ml | [OH-].[Na+]
reactant | water | 3 mL | O | H2O
solvent | 1,4 dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-4,6-difluoro-N-methylbenzamide | 0.966 mmol, 0.532 g | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC)C(=CC(=C2)F)F)OC)C | C27H28F2N8O3
